US03947582
4-Ethyl-2-fluoro-2'-hydroxybenzanilide (29.0 gm.) is heated for 40 minutes in a Wood's metal bath at 240°C. The reaction mixture is then cooled, taken up in chloroform and the chloroform solution treated with carbon, dried over magnesium sulfate and concentrated in vacuo to give 2-(4-ethyl-2-fluorophenyl)benzoxazole.

reactant | 4-Ethyl-2-fluoro-2'-hydroxybenzanilide | 29.0 gm | C(C)C1=CC(=C(C(=O)NC2=C(C=CC=C2)O)C=C1)F | C15H14FNO2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-ethyl-2-fluorophenyl)benzoxazole | C(C)C1=CC(=C(C=C1)C=1OC2=C(N1)C=CC=C2)F | C15H12FNO
